US07169775B2
Preparation of N-[(1-butyl-2-ethyl-4-phenyl-1H-imidazol-5-yl)methyl]-N-(2,3-dihydro-1,4-benzodioxin-6-ylmethyl)-N-(3-ethoxybenzyl)-amine
N-[(1-butyl-2-ethenyl-4-phenyl-1H-imidazol-5-yl)methyl]-N-(2,3-dihydro-1,4-benzodioxin-6-ylmethyl)-N-(3-ethoxybenzyl)-amine (8 mg) prepared in the previous example, is dissolved in 5 mL ethyl acetate and hydrogenated at room temperature under atmospheric pressure. 5% Pd/C (3 mg) is used as a catalyst. The reaction mixture is filtered through celite to provide the title compound (Compound 7). 1H NMR (CDCl3) δ 0.83(t, J=7.2 Hz, 3H), 1.10(m, 2H), 1.27(m, 2H), 1.31(t, J=7.2 Hz, 3H), 1.40(t, J=7.2 Hz, 3H), 2.66(q, 7.2 Hz, 2H) 3.30(s, 2H), 3.36(s, 2H), 3.65(s, 2H), 3.98(m, 4H), 4.23(s, 4H), 6.76(m, 4H), 7.17(t, J=7.6 Hz, 2H), 7.26(m, 1H), 7.37(t, J=7.6 Hz, 2H), 7.58(d, J=7.6 Hz, 2H).

reactant | N-[(1-butyl-2-ethenyl-4-phenyl-1H-imidazol-5-yl)methyl]-N-(2,3-dihydro-1,4-benzodioxin-6-ylmethyl)-N-(3-ethoxybenzyl)-amine | 8 mg | C(CCC)N1C(=NC(=C1CN(CC1=CC(=CC=C1)OCC)CC1=CC2=C(OCCO2)C=C1)C1=CC=CC=C1)C=C | C34H39N3O3
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 3 mg | [Pd] | Pd
product | N-[(1-butyl-2-ethyl-4-phenyl-1H-imidazol-5-yl)methyl]-N-(2,3-dihydro-1,4-benzodioxin-6-ylmethyl)-N-(3-ethoxybenzyl)-amine | C(CCC)N1C(=NC(=C1CN(CC1=CC(=CC=C1)OCC)CC1=CC2=C(OCCO2)C=C1)C1=CC=CC=C1)CC | C34H41N3O3
